US04140515
Preparation of 2-[5-(4-Chlorophenyl)-3-Isoxazolyl]Benzoic Acid.
A mixture of 2.8 g of methyl 2-[5-(4-chlorophenyl)3-isoxazolyl]benzoate, 12 ml of concentrated HCl, and 14 ml of acetic acid was held at reflux for 4 hours, cooled, diluted with water, and filtered to give 2.55 g (95%) of white solid, mp 174-176° C. Recrystallization of the solid gave 2.18 g of solid, mp 175.5-177.5° C.

reactant | methyl 2-[5-(4-chlorophenyl)3-isoxazolyl]benzoate | 2.8 g | ClC1=CC=C(C=C1)C1=CC(=NO1)C1=C(C(=O)OC)C=CC=C1 | C17H12ClNO3
reactant | HCl | 12 ml | Cl | ClH
reactant | acetic acid | 14 ml | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 2-[5-(4-Chlorophenyl)-3-Isoxazolyl]Benzoic Acid | 2.55 g, 95% | ClC1=CC=C(C=C1)C1=CC(=NO1)C1=C(C(=O)O)C=CC=C1 | C16H10ClNO3
